US05380721
To a solution of N-methyl-4-bromophenylsulfonamide (2.5 g, 10 mmol) in DMF (20 mL) at room temperature was added in portions NaH (264 rag, 11 mmol). The mixture was stirred for 45 minutes and then p-methoxybenzylchloride (1.49 mL, 11 mmol) was added dropwise. The mixture was stirred for 1 hour, quenched with water and the precipitate which formed was collected by filtration and dried in vacuo at 60° C. to afford 3.6 g (97%) of N-methyl-N-(4-methoxybenzyl)-4-bromophenylsulfonamide.

reactant | N-methyl-4-bromophenylsulfonamide | 10 mmol, 2.5 g | CNS(=O)(=O)C1=CC=C(C=C1)Br | C7H8BrNO2S
reactant | NaH | 11 mmol | [H-].[Na+]
reactant | p-methoxybenzylchloride | 11 mmol, 1.49 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-(4-methoxybenzyl)-4-bromophenylsulfonamide | 3.6 g, 97% | CN(S(=O)(=O)C1=CC=C(C=C1)Br)CC1=CC=C(C=C1)OC | C15H16BrNO3S
